US09029359B2
(R)-2-(3,5-dichlorophenylamino)-N-(1-(6-(methylamino)pyrimidin-4-yl)piperidin-3-yl)acetamide
The title compound of Example 144 was prepared in similar manner as described in Example 134 except the key intermediate (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate was replaced with (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate and the 4-amino-6-chloropyrimidine-5-carbonitrile was substituted for 6-chloro-N-methylpyrimidin-4-amine. 1H NMR (300 MHz, CD3OD) δ 8.08 (s, 1H), 6.63 (s, 1H), 6.48 (d, J=1.51 Hz, 2H), 5.69 (s, 1H), 3.91 (dd, J=3.78, 7.55 Hz, 3H), 3.74 (s, 2H), 3.50-3.67 (m, 2H), 2.90 (s, 3H), 1.96 (dt, J=4.53, 9.06 Hz, 1H), 1.73-1.88 (m, 2H), 1.57-1.73 (m, 1H). EIMS (m/z): calcd. for C18H22Cl2N6O (M+1H) 409. found 409.

reactant | (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)F)N[C@@H](C(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1CC1 | C21H29ClFN3O3
reactant | (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H25Cl2N3O3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | 6-chloro-N-methylpyrimidin-4-amine | ClC1=CC(=NC=N1)NC | C5H6ClN3
product | (R)-2-(3,5-dichlorophenylamino)-N-(1-(6-(methylamino)pyrimidin-4-yl)piperidin-3-yl)acetamide | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C1=NC=NC(=C1)NC | C18H22Cl2N6O
